US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(piperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg) is dissolved in ethanol (3 ml), and thereto are added sodium bicarbonate (76.4 mg) and cyanogen bromide (35 mg). The mixture is stirred at room temperature for 13 hours, and partitioned by adding water and diethyl ether to the reaction solution. The resulting mixture is washed with saturated brine, then dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=4:1→3:2) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-[5-(4-cyanopiperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (183 mg). MS (m/z): 693 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(piperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCNCC1)CC | C31H35F6N7O3
reactant | sodium bicarbonate | 76.4 mg | C([O-])(O)=O.[Na+]
reactant | cyanogen bromide | 35 mg | N#CBr | CBrN
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-[5-(4-cyanopiperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 183 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCN(CC1)C#N)CC | C32H34F6N8O3
